US04762840
Using a method similar to that used in the preparation of 1-methylcyclohexyl 2-(p-aminophenyl)-propionate, 21.4 g of 1-adamantyl 2-(p-nitrophenyl)propionate were reacted to obtain 19.42 g (100% yield) of 1-adamantyl 2-(p-aminophenyl)propionate of a light yellow viscous liquid.

reactant | 1-methylcyclohexyl 2-(p-aminophenyl)-propionate | NC1=CC=C(C=C1)C(C(=O)OC1(CCCCC1)C)C | C16H23NO2
reactant | 1-adamantyl 2-(p-nitrophenyl)propionate | 21.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC12CC3CC(CC(C1)C3)C2)C | C19H23NO4
product | 1-adamantyl 2-(p-aminophenyl)propionate | 19.42 g, 100% yield | NC1=CC=C(C=C1)C(C(=O)OC12CC3CC(CC(C1)C3)C2)C | C19H25NO2
